Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
altered mental status, fever, headache
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year-old male known to the Neurosurgery
service.  The patient was discharged yesterday to rehab status
post a L2 dural AVM resection on ___.  The patient had
intermittent headaches while inpatient which was amenable to
Fioricet prior to his discharge.

Today, per Rehab report, the patient had a change in mental
status, had a temperature of 102 and had a questionable wound
infection.  The patient was transported to ___ ED for further
evaluation.

 
Past Medical History:
Spinal Dural AV Fistula, HLD, HTN, CABG X3, R knee surgery, and 
Seizures. 
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
O: T: 98.2  HR: 75  BP: 128/54  RR: 18   O2 Sat 98% on room air
Gen: (Received IV morphine prior to assessment):  Not following
commands briskly, agitated on exam, not answering questions.
HEENT: Pupils equal, round.  Unable to examine properly due to
patient agitation.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Not answering questions.

Motor: Bilateral upper extremities full strength.  
Bilateral lower extremities:  Wiggling toes, withdrawing to 
pain.
Not following commands.

Lumbar incision CDI, approximated with staples.  No signs of
infection, fluctuance.  Erythema around stapes normal.

DISCHARGE EXAM:
confused, oriented intermittently to self (at first does not 
respond to his name), but able to name the date and hospital, 
naming intact, language ok with simple repetition, CN intact, 
There is ___ weakness in the R leg with decreased sensation on 
the R as well which is chronic per patient and previous MD 
reports.
 
Pertinent Results:
___ 05:00PM BLOOD WBC-12.3* RBC-4.14* Hgb-12.5* Hct-38.6* 
MCV-93 MCH-30.2 MCHC-32.5 RDW-12.6 Plt ___
___ 08:10AM BLOOD WBC-8.1 RBC-3.92* Hgb-11.8* Hct-35.9* 
MCV-92 MCH-30.0 MCHC-32.8 RDW-12.3 Plt ___
___ 08:10AM BLOOD Glucose-118* UreaN-14 Creat-0.6 Na-135 
K-3.3 Cl-101 HCO3-24 AnGap-13
___ 08:10AM BLOOD Calcium-8.4 Phos-3.0 Mg-2.1
___ 05:19PM BLOOD Lactate-1.7

UCx, BCx  pending at time of discharge

CT Head ___
No evidence of acute intracranial process.

CT L spine ___
Post-embolization and laminectomy changes along the lumbar 
spine.  9.0 x 7.3 x 15.8 cm fluid collection in the soft tissue 
overlying the lumbar spine is non-specific.  This type of 
collection commonly is seen as a seroma following spine surgery, 
but an abscess is not excluded.   

CXR ___
No acute cardiopulmonary finding

UA
___ 12:30AM URINE Color-Yellow Appear-Hazy Sp ___
___ 12:30AM URINE Blood-SM  Nitrite-NEG Protein-300 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 12:30AM URINE RBC-32* WBC-5 Bacteri-FEW Yeast-NONE 
Epi-___: The patient was admitted to the neurosurgery service. 
NCHCT normal, CT spine showed expected post op changes. Medicine 
was consulted and initially recommended considering an LP under 
floro guidance to rule out meningitis given fever, headache, and 
AMS.

___: The patient remained afebrile with Tmax 99.8. The patient 
did not 

___: afebrile, baseline MS, ok to return to rehab. Stopped IV 
abx and started PO Bactrim x 7 d. Removed foley for repeat trial 
of void. Gram + cocci in clusters growing in ___ bottles of Bcx, 
this was likely a contaminent so the patient was continued on PO 
Bactrim for now and monitored overnight.

___: Mr. ___ was unable to void after his foley removable. 
The foley was re-inserted. He continued to be afebrile. His 
sodium was within normal range. He was discharged to rehab with 
instructions for follow up. 
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
altered mental status

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Mental Status: Confused - sometimes.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. You recently had spinal surgery, and you were 
readmitted from rehab for confusion and fever. You were started 
on antibiotics here, but you remained afebrile, and WBC 
normalized. Your mental status and neurological exam were stable 
from your recent discharge, so we changed you to emperic PO 
antibiotics for 7 days in case of occult infection, and you were 
discharged back to rehab.

It is important that you follow all instructions from your 
recent surgery and keep all follow up appointments as 
instructed.

¨     Do not smoke.

¨     Keep your wound(s) clean and dry / No tub baths or pool 
swimming for two weeks from your date of surgery.

¨     No pulling up, lifting more than 10 lbs., or excessive 
bending or twisting.

¨     Limit your use of stairs to ___ times per day.

¨     Have a friend or family member check your incision daily 
for signs of infection.

     Take your pain medication as instructed; you may find it 
best if taken in the morning when you wake-up for morning 
stiffness, and before bed for sleeping discomfort.

¨     Do not take any medications such as Aspirin unless 
directed by your doctor.

¨     Unless you had a fusion, you should take Advil/Ibuprofen  
400mg three times daily

¨     Increase your intake of fluids and fiber, as pain medicine 

(narcotics) can cause constipation. We recommend taking an over 
the counter stool softener, such as Docusate (Colace) while 
taking narcotic pain medication.

¨     Clearance to drive and return to work will be addressed at 

your post-operative office visit.

 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING:

 

¨     Pain that is continually increasing or not relieved by 
pain medicine.

¨     Any weakness, numbness, tingling in your extremities.

¨     Any signs of infection at the wound site: redness, 
swelling, tenderness, and drainage.

¨     Fever greater than or equal to 101° F. 

¨     Any change in your bowel or bladder habits (such as loss 
of bowl or urine control). 

 
Followup Instructions:
___